US04367234
5-(3-Chlorophenyl)oxazolidine-2,4-dione
By the procedure of Example 3, ethyl 1-(3-chlorophenyl)-1-hydroxymethanecarboximidate hydrochloride (9 g., 38 moles) in 250 ml. of tetrahydrofuran was converted to toluene recrystallized 5-(3-chlorophenyl)oxazolidine-2,4-dione (4.5 g., 56%, m.p. 142°-144° C.).

reactant | ethyl 1-(3-chlorophenyl)-1-hydroxymethanecarboximidate hydrochloride | 38 moles, 9 g | Cl.ClC=1C=C(C=CC1)C(C(OCC)=N)O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-(3-Chlorophenyl)oxazolidine-2,4-dione | ClC=1C=C(C=CC1)C1C(NC(O1)=O)=O | C9H6ClNO3
